US07838675B2
i) 6-(difluoromethoxy)-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinol
To a solution of 2-[[(2,3-difluorophenyl)methyl]thio]-4,6-pyrimidinediol (3 g) in DMF (30 mL), cesium carbonate (4.3 g) and chlorodifluoro-acetic acid sodium salt (1.9 g) was added. The resulting mixture was heated at 100° C. for 2 h. The reaction mixture was cooled then diluted with H2O and extracted with EtOAc. The organic layer was washed with H2O and dried (MgSO4), filtered and evaporated. Purification was by column chromatography on silica gel using EtOAc/isohexane (2:8) as eluent to give the subtitle compound as a white solid. Yield: 0.4 g

reactant | 2-[[(2,3-difluorophenyl)methyl]thio]-4,6-pyrimidinediol | 3 g | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)O)O | C11H8F2N2O2S
reactant | cesium carbonate | 4.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chlorodifluoro-acetic acid sodium salt | 1.9 g | [Na+].ClC(C(=O)[O-])(F)F
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 6-(difluoromethoxy)-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinol | FC(OC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)O)F | C12H8F4N2O2S
